US08877779B2
To a cooled (0° C.) solution of 2a,3,4,5-tetrahydro-2H-acenaphthylen-1-ol and diphenylphosphoryl azide (9.31 g) in toluene (90 ml) was added DBU (diazabicycloundecene) (5.04 mL), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was poured into water, and the mixture was extracted with toluene. The combined organic layer was washed with water, dried over magnesium sulfate, and concentrated. The crude product was dissolved in a mixed solvent (77 ml) of THF/water (10:1), triphenylphosphine (9.61 g) was added, and the mixture was heated under reflux for 1 hr. After cooling to room temperature, the solvent was evaporated, 1N hydrochloric acid (100 ml) was added to the residue, and unnecessary substances were removed by extraction with ethyl acetate. The aqueous phase was alkalified with potassium carbonate, and extracted with chloroform. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated to give 1,2,2a,3,4,5-hexahydroacenaphthylen-1-ylamine.

reactant | 2a,3,4,5-tetrahydro-2H-acenaphthylen-1-ol | C1(CC2CCCC3=CC=CC1=C23)O | C12H14O
reactant | diphenylphosphoryl azide | 9.31 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 5.04 mL | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
reactant | water | O | H2O
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2,2a,3,4,5-hexahydroacenaphthylen-1-ylamine | C1(CC2CCCC3=CC=CC1=C23)N | C12H15N
